US09169254B2
n-Butyllithium (1.6 M solution in hexane, 26 ml, 41.6 mmol) was added to a solution of triphenyl-(3,3,3-trifluoro-propyl)-phosphonium iodide (20.25 g, 41.64 mmol) in THF (141 ml) at −78° C. over 13 minutes, and the mixture was stirred at the same temperature for 20 minutes. A solution of 4-oxo-cyclohexanecarboxylic acid ethyl ester (6.56 g, 38.54 mmol) in THF (22 ml) was added to the reaction solution at −78° C. over 17 minutes, and the mixture was stirred at the same temperature for one hour. A 50% saturated aqueous ammonium chloride solution was added, followed by extraction with dichloromethane. The organic layer was then dried over MgSO4 and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give ethyl 4-(3,3,3-trifluoro-propylidene)-cyclohexanecarboxylate (9.25 g, 96%).

reactant | n-Butyllithium | 41.6 mmol, 1.6 M, 26 ml | C(CCC)[Li]
reactant | triphenyl-(3,3,3-trifluoro-propyl)-phosphonium iodide | 41.64 mmol, 20.25 g | [I-].C1(=CC=CC=C1)[P+](CCC(F)(F)F)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 4-oxo-cyclohexanecarboxylic acid ethyl ester | 38.54 mmol, 6.56 g | C(C)OC(=O)C1CCC(CC1)=O | C9H14O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 141 ml | C1CCOC1 | C4H8O
solvent | THF | 22 ml | C1CCOC1 | C4H8O
product | ethyl 4-(3,3,3-trifluoro-propylidene)-cyclohexanecarboxylate | 9.25 g, 96% | FC(CC=C1CCC(CC1)C(=O)OCC)(F)F | C12H17F3O2
